US07622583B2
N-[5-Chloro-2-(3-methyl-2-oxo-2,3-dihydro-1 H-benzoimidazole-4-carbonyl)-pyridin-3-yl]-N-methoxymethyl-4-methyl-3-trifluoromethyl -benzenesulfonamide was prepared from 3-methyl-2-oxo-2,3-dihydro-1H-benzoimidazole-4-carboxylic acid methoxy-methyl-amide and N-(2-bromo-5-chloro-pyridin-3-yl)-N-methoxymethyl-4-methyl-3-trifluoromethyl-benzenesulfonamide according to previously described procedure in example 29, step 1. The product was purified by flash column chromatography on silica gel using ethyl acetate-hexane. MS m/z: 569.0 (M+H)+.

reactant | 3-methyl-2-oxo-2,3-dihydro-1H-benzoimidazole-4-carboxylic acid methoxy-methyl-amide | CON(C(=O)C1=CC=CC=2NC(N(C21)C)=O)C | C11H13N3O3
reactant | N-(2-bromo-5-chloro-pyridin-3-yl)-N-methoxymethyl-4-methyl-3-trifluoromethyl-benzenesulfonamide | BrC1=NC=C(C=C1N(S(=O)(=O)C1=CC(=C(C=C1)C)C(F)(F)F)COC)Cl | C15H13BrClF3N2O3S
product | N-[5-Chloro-2-(3-methyl-2-oxo-2,3-dihydro-1 H-benzoimidazole-4-carbonyl)-pyridin-3-yl]-N-methoxymethyl-4-methyl-3-trifluoromethyl -benzenesulfonamide | ClC=1C=C(C(=NC1)C(=O)C1=CC=CC=2NC(N(C21)C)=O)N(S(=O)(=O)C2=CC(=C(C=C2)C)C(F)(F)F)COC | C24H20ClF3N4O5S
